US07132436B2
2,4-Dichloro-N-[4-(3-chloro-2-thienyl)1,3-thiazol-2-yl]-6-methylbenzenesulfonamide
The title compound was prepared from 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (9.4 mg) with purity >90%: MS (pos) m/z 439.1, 441.1; HRS m/z 437.8875 (calc. of monoisotopic mass for C14H9Cl3N2O2S3 gives 437.8892).

reactant | 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine | ClC1=C(SC=C1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-[4-(3-chloro-2-thienyl)1,3-thiazol-2-yl]-6-methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)C=1SC=CC1Cl | C14H9Cl3N2O2S3
